US06255319B1
2.2. Phenylmethyl [6-chloro-8-[4-(8-azabicyclo[3.2.1]oct-3-yl)-5-oxo-4,5-dihydro-1,3,4-oxadiazol-2-yl]-2,3-dihydro-1,4-benzodioxin-5-yl]carbamate
13.75 g (0.022 mol) of phenylmethyl [6-chloro-8-[4-[8-[(1,1-dimethylethoxy)carbonyl]-8-azabicyclo[3.2.1]oct-3-yl]-5-oxo-4,5-dihydro-1,3,4-oxadiazol-2-yl]-2,3-dihydro-1,4-benzodioxin-5-yl)carbamate dissolved in 150 ml of chloroform are introduced into a 500 ml three-necked round-bottomed flask, 17.05 ml (0.221 mol) of trifluoroacetic acid are added slowly, over 20 min, and the mixture is stirred for 19 h. A further 17.05 ml (0.221 mol) of trifluoroacetic acid are added and the mixture is stirred for 5 h.

reactant | phenylmethyl [6-chloro-8-[4-[8-[(1,1-dimethylethoxy)carbonyl]-8-azabicyclo[3.2.1]oct-3-yl]-5-oxo-4,5-dihydro-1,3,4-oxadiazol-2-yl]-2,3-dihydro-1,4-benzodioxin-5-yl)carbamate | 0.022 mol, 13.75 g | ClC1=C(C2=C(OCCO2)C(=C1)C=1OC(N(N1)C1CC2CCC(C1)N2C(=O)OC(C)(C)C)=O)NC(OCC2=CC=CC=C2)=O | C30H33ClN4O8
reactant | trifluoroacetic acid | 0.221 mol, 17.05 ml | FC(C(=O)O)(F)F | C2HF3O2
reactant | trifluoroacetic acid | 0.221 mol, 17.05 ml | FC(C(=O)O)(F)F | C2HF3O2
solvent | chloroform | 150 ml | C(Cl)(Cl)Cl | CHCl3
product | Phenylmethyl [6-chloro-8-[4-(8-azabicyclo[3.2.1]oct-3-yl)-5-oxo-4,5-dihydro-1,3,4-oxadiazol-2-yl]-2,3-dihydro-1,4-benzodioxin-5-yl]carbamate | ClC1=C(C2=C(OCCO2)C(=C1)C=1OC(N(N1)C1CC2CCC(C1)N2)=O)NC(OCC2=CC=CC=C2)=O | C25H25ClN4O6
